US06258952B1
The method of claim 21 wherein step (c) comprises heating the 2,4-diamino-5-methyl-6-[(3,4,5-trimethoxyphenylimino)methyl]quinazoline in a mixture of tetrahydrofuran and water in the presence of a reducing agent to produce a crude trimetrexate base, and converting the crude trimetrexate base to trimetrexate acetate.

reactant | 2,4-diamino-5-methyl-6-[(3,4,5-trimethoxyphenylimino)methyl]quinazoline | NC1=NC2=CC=C(C(=C2C(=N1)N)C)C=NC1=CC(=C(C(=C1)OC)OC)OC | C19H21N5O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | trimetrexate | CC1=C(C=CC2=C1C(=NC(=N2)N)N)CNC3=CC(=C(C(=C3)OC)OC)OC | C19H23N5O3
